US09212182B2
A vial was charged with (3-(trifluoromethyl)phenyl)boronic acid (188 mg, 0.991 mmol), S-Phos Precatalyst (25.1 mg, 0.033 mmol), and potassium phosphate (281 mg, 1.322 mmol). The vial was flushed with Ar (g), then a solution of 1-(4-chlorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide (166 mg, 0.330 mmol) in 1,4-dioxane (1322 μl) was added. Water (330 μl) was then added, and the vial was sealed and heated to 120° C. for 30 min in a Biotage Initiator microwave reactor. The mixture was extracted with EtOAc (3×). The combined organic extracts were concentrated. The residue was taken up in MeOH and filtered through a 0.2 micron filter. The resulting solution was purified by reverse-phase HPLC (25-70% CH3CN/H2O with 0.1% TFA). Fractions containing product were combined and lyophilized to give N-3-isoxazolyl-2-oxo-1-(3′-(trifluoromethyl)-4-biphenylyl)-1,2-dihydro-6-quinolinesulfonamide (32.5 mg, 0.064 mmol, 19.23% yield) as an off-white powder. NMR (400 MHz, DMSO-d6) δ=11.62 (s, 1H), 8.69 (d, J=1.9 Hz, 1H), 8.35 (d, J=2.3 Hz, 1H), 8.21 (d, J=9.5 Hz, 1H), 8.10-8.01 (m, 2H), 7.99-7.94 (m, 2H), 7.83-7.70 (m, 3H), 7.52-7.41 (m, 2H), 6.78 (t, J=9.0 Hz, 2H), 6.40 (d, J=1.9 Hz, 1H). m/z (ESI) 511.9 (M+H)+.

reactant | (3-(trifluoromethyl)phenyl)boronic acid | 0.991 mmol, 188 mg | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | S-Phos | COC=1C=CC=C(C1C=2C=CC=CC2P(C3CCCCC3)C4CCCCC4)OC | C26H35O2P
reactant | potassium phosphate | 1.322 mmol, 281 mg | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1-(4-chlorophenyl)-N-(isoxazol-3-yl)-2-oxo-1,2-dihydroquinoline-6-sulfonamide | 0.330 mmol, 166 mg | ClC1=CC=C(C=C1)N1C(C=CC2=CC(=CC=C12)S(=O)(=O)NC1=NOC=C1)=O | C18H12ClN3O4S
solvent | 1,4-dioxane | 1322 μl | O1CCOCC1 | C4H8O2
solvent | Water | 330 μl | O | H2O
product | N-3-isoxazolyl-2-oxo-1-(3′-(trifluoromethyl)-4-biphenylyl)-1,2-dihydro-6-quinolinesulfonamide | 0.064 mmol, 32.5 mg, 19.23% yield | O1N=C(C=C1)NS(=O)(=O)C=1C=C2C=CC(N(C2=CC1)C1=CC=C(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C25H16F3N3O4S
